US08557830B2
A mixture of 4-(2-fluoropyridin-3-yl)-7H-pyrrolo[2,3-d]pyrimidine (78 mg, 363 μmol) and 4-(8-amino-7-methylquinazolin-4-ylamino)benzonitrile (100 mg, 363 μmol) in THF (4 mL) was sonicated until all solids became a fine powder. Lithium bis(trimethylsilyl)amide (1.0 M solution in tetrahydrofuran; 1.64 mL, 1.64 mmol) was then added dropwise with stirring (all solids dissolved and then some solid appeared again). The mixture was stirred at rt for 10 min and then heated in a microwave at 120° C. for 30 min. The mixture was poured into MeOH (10 mL) and AcOH (0.5 mL) and stirred for 10 min, then 2 M NH3 in MeOH (20 mL) was added. Solvent was removed under vacuum and the residue was purified by flash chromatography eluting with MeOH(NH3)/DCM to give 4-(8-(3-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyridin-2-ylamino)-7-methylquinazolin-4-ylamino)benzonitrile. MS (ESI, pos. ion) m/z: 470.2 [M+H]+

reactant | 4-(2-fluoropyridin-3-yl)-7H-pyrrolo[2,3-d]pyrimidine | 363 μmol, 78 mg | FC1=NC=CC=C1C=1C2=C(N=CN1)NC=C2 | C11H7FN4
reactant | 4-(8-amino-7-methylquinazolin-4-ylamino)benzonitrile | 363 μmol, 100 mg | NC=1C(=CC=C2C(=NC=NC12)NC1=CC=C(C#N)C=C1)C | C16H13N5
reactant | Lithium bis(trimethylsilyl)amide | 1.64 mmol, 1.0 M, 1.64 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | NH3 | 2 M | N | H3N
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
solvent | AcOH | 0.5 mL | CC(=O)O | C2H4O2
product | 4-(8-(3-(7H-pyrrolo[2,3-d]pyrimidin-4-yl)pyridin-2-ylamino)-7-methylquinazolin-4-ylamino)benzonitrile | N1=CN=C(C2=C1NC=C2)C=2C(=NC=CC2)NC=2C(=CC=C1C(=NC=NC21)NC2=CC=C(C#N)C=C2)C | C27H19N9
